US05300524
Utilising the procedure described in example 10(a) employing 5-(3-pyridyl)-1-pentanol in lieu of 3-(3-pyridyl)-1-propanol gave after purification by column chromatography (flash silica gel, 5% methanol in chloroform) 5-(3-pyridyl)-1-pentanal (96% yield).

reactant | 5-(3-pyridyl)-1-pentanol | N1=CC(=CC=C1)CCCCCO | C10H15NO
reactant | 3-(3-pyridyl)-1-propanol | N1=CC(=CC=C1)CCCO | C8H11NO
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(3-pyridyl)-1-pentanal | 96% yield | N1=CC(=CC=C1)CCCCC=O | C10H13NO
